US04036850
b. N-(1-naphthyl)-N'-(2,3-dibromopropionyl)-urea
26.0 g of 2,3-dibromopropionyl isocyanate in 100 ml of toluene are added dropwise at 5 to 10° C to a solution of 14.5 g of 1-aminonaphthalene in 200 ml of dry benzene. After stirring for 2 hours at 20° C., the reaction product is diluted with petroleum ether, filtered and dried. Yield: 35.0 g, m.p: 194° - 195° C. (decomp.).

reactant | 2,3-dibromopropionyl isocyanate | 26.0 g | BrC(C(=O)N=C=O)CBr | C4H3Br2NO2
reactant | 1-aminonaphthalene | 14.5 g | NC1=CC=CC2=CC=CC=C12 | C10H9N
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
solvent | benzene | 200 ml | C1=CC=CC=C1 | C6H6
product | N-(1-naphthyl)-N'-(2,3-dibromopropionyl)-urea | C1(=CC=CC2=CC=CC=C12)NC(=O)NC(C(CBr)Br)=O | C14H12Br2N2O2
